US07115634B2
4-((3,3-diphenylpropyl){[3-(trifluoromethyl)anilino]carbonyl}amino)-N-phenyl-1-piperidine carboxamide (C35H35F3N4O2, M=600.68)
N-(3,3-diphenylpropyl)-N-(4-piperidinyl)-N′-[3-(trifluoromethyl)phenyl]urea (24 mg, 0.05 mmol) is dissolved in dichloromethane. Phenylisocyanate (9 mg, 0.075 mmol, 1.5 eq.) is added and the mixture is agitated for 2.5 hours. The aminomethyl resin (0.02 mmol) is added and the reaction is again agitated overnight. The resin is filtered, rinsed with dichloromethane and the filtrate is concentrated. The oil obtained is passed through a silica gel cartridge eluting with an equimolar mixture of heptane and ethyl acetate in order to obtain 12 mg (yield=40%) of a yellow oil after concentration.

reactant | N-(3,3-diphenylpropyl)-N-(4-piperidinyl)-N′-[3-(trifluoromethyl)phenyl]urea | 0.05 mmol, 24 mg | C1(=CC=CC=C1)C(CCN(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C1CCNCC1)C1=CC=CC=C1 | C28H30F3N3O
reactant | Phenylisocyanate | 0.075 mmol, 9 mg, 1.5 eq. | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-((3,3-diphenylpropyl){[3-(trifluoromethyl)anilino]carbonyl}amino)-N-phenyl-1-piperidine carboxamide | 12 mg, yield=40% | C1(=CC=CC=C1)C(CCN(C1CCN(CC1)C(=O)NC1=CC=CC=C1)C(=O)NC1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C35H35F3N4O2
